Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone / hydrocodone / Penicillins
 
Attending: ___
 
Chief Complaint:
absent pulses in lower extremities 
 
Major Surgical or Invasive Procedure:
Panniculectomy ___ 

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of severe
peripheral vascular disease, obesity, CAD s/p MI w/ PCI c/b left
circumflex perforation, DMII, hypertension, chronic myeloid
leukemia s/p SCT c/b GVHD, and chronic ulcerations on her pannus
who presents with concern for loss of pulses in her lower
extremities. 

In terms of her PVD, she is s/p bilateral iliac stenting 
(___)
with subsequent occlusion and recent ABI of 0.2 bilaterally. Per
vascular surgery, the plan has been consideration of bilateral
amputations vs. bypass surgery, but this has been difficult in
light of chronic MRSA-infected ulcerations in her pannus
requiring multiple hospitalizations at ___. She was
referred to plastic surgery for management of these ulcerations.
Plastics has recommended weekly debridements with ultimate
panniculectomy. 

On ___, she presented for routine follow-up at ___
where she was noted to appear "anemic and undernourished" by
nursing staff. She was sent to ___ where she was found
to have no distal ___ pulses and was sent to ___ for evaluation
by plastics and vascular surgery. 

In the ED, vascular surgery was consulted. They noted
discoloration of her right first toe and concern for gangrene in
the tips of her left ___ and ___ toes. There were no palpable
pulses in the lower extremities, which apparently is her
baseline. She was noted to have had a CTA at OSH with
three-vessel runoff. They determined that there were no acute
vascular surgery needs. 

She later became agitated and was noted to be yelling, cursing,
and kicking and swatting staff. She was given IM olanzapine and
Haldol. She stated that she was in a house and that she was 
going
to call the police. She removed her PIV and refused vitals 
checks
and medications. She later became more calm, but continued to be
disoriented and called the police. 

In the ED, initial vital signs were notable for:
T 98.3F HR 70 BP 128/43 RR 16 O2 99% RA 

Exam notable for:
- Pannus with multiple ulcerations with surrounding erythema and
fibrinous exudate covered by gauze. 3 large ulcerations 
measuring
4-8cm lengthwise and multiple 1-3cm punctate ulcerations. 
- 8x3cm ulcer over sacrum.
- No DP or posterior tibial pulses bilaterally, dorsum of feet
are warm. ___ digit of both feet dusky with dry blackened scabs,
duskiness over ___ digits, no exudate.

Labs were notable for:
WBC 18.5 
Hgb 7.8 
Plt 439 
Lactate 2.4 
UA with leukocytes 

Studies performed include:
CTA Aorta Bifem Iliac ___:
1.  Redemonstration of occlusion of the distal infrarenal
abdominal aorta at the site of the bilateral common iliac stents
with reconstitution of flow in the bilateral common iliac
arteries from multiple collaterals. 
2.  Three-vessel runoff is identified bilaterally to the level 
of
the ankle, with slower flow noted in the bilateral anterior
tibial and peroneal arteries. The dorsalis pedis arteries are 
not
well visualized on either side, and there is likely retrograde
filling of the right dorsalis pedis from multiple plantar
arteries. 
3.  Mild to moderate stenosis identified in the abdominal major
branches, iliac and femoral arteries, due to atherosclerotic
calcified and noncalcified plaque, detailed above. 
4.  Possible nonobstructing 2-3 mm left upper renal pole stone
versus vascular calcification. 

Patient was given:
IV CefTRIAXone 1 g 
IV Vancomycin 1000 mg 
IM Haloperidol 2.5 mg x2
IM OLANZapine 5 mg x2
PO/NG HYDROmorphone (Dilaudid) 2 mg 
PO/NG Citalopram 10 mg 
PO/NG Pregabalin 50 mg 
PO Isosorbide Mononitrate (Extended Release) 30 mg 
PO/NG Losartan Potassium 50 mg 
PO MetFORMIN XR (Glucophage XR) 1000 mg 
PO Metoprolol Succinate XL 50 mg 
PO Omeprazole 20 mg 
PO/NG amLODIPine 5 mg 
PO/NG rOPINIRole 1 mg 

Upon arrival to the floor, the patient is calm. She reports pain
in her bilateral feet, lower back at the site of her wound, and
lower abdomen. She says that she had some diarrhea several days
ago, but it has since resolved. She denies chest pain, abdominal
pain (besides her wound pain), N/V. 
 
Past Medical History:
CAD s/p MI w/ failed PCI attempt, c/b perforation of left 
Circumflex 
HTN
HLD
Obesity 
DMII 
PVD with necrotic toe ulceration 
CML s/p SCT 
Anxiety 
Depression 
Diverticulitis 
Psoriasis 
Restless leg syndrome
Neuropathy
Chronic pannus ulcers s/p panniculectomy ___ 
Possible dementia, planned neurocognitive assessment 

 
Social History:
___
Family History:
The patient's father died in ___ secondary to a propane  
explosion. The patient had 12 siblings there were total 13, one 
was stillborn. 
 
Physical Exam:
Admission physical exam: 
VITALS:
24 HR Data (last updated ___ @ 2144)
    Temp: 99.6 (Tm 99.6), BP: 131/70, HR: 81, RR: 20, O2 sat:
96%, O2 delivery: Ra, Wt: 185.85 lb/84.3 kg  
GENERAL: calm elderly woman, pleasant, AxOx3. 
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
ABDOMEN: Obese. Pannus with multiple open ulcers with
fibrinous/purulent base and surrounding erythema. Normal bowels
sounds, non distended, non-tender to palpation 
BACK: sacral wound with overlying eschar 
EXTREMITIES: Dusky discoloration of the right first toe with
ulceration. In addition, she has superficial gangrene in the 
tips
of the left second and third toes.  There are no palpable pulses
in the lower extremities.
NEUROLOGIC: CN2-12 intact. AOx3.

Discharge physical Exam: 
___ 0726 Temp: 97.9 PO BP: 153/71 R Lying HR: 76 RR: 18 O2
sat: 98% O2 delivery: Ra FSBG: 97 
GENERAL: Alert, pleasant elderly woman, lying in bed, in no 
acute
distress.
HEENT: sclera anicteric
CARDIAC: RRR, nl s1/s2, no m/g/r appreciated.
LUNGS: CTAB. No w/r/r appreciated. No increased WOB.
ABDOMEN: Large horizontal incision along the abdomen with
incisional vac in place. No erythema, induration, or tenderness
surrounding the incision. 2 JP drains in place, L drain 5 ml
serosanguinous fluid, R drain with 5 mL serosanguinous output.
BACK: Sacral pressure ulcer under mepilex (ulcer is stage II). 
No erythema or
induration surrounding ulcer.
EXTREMITIES: Feet with gauze dressings around toes c/d/I;
betadine visible on gauze on R foot
NEUROLOGIC: AAOx2 (not oriented to date), occasionally 
forgetful, CN2-12 grossly intact. Moving ___.  No tremor 
noted.

 
Pertinent Results:
Admission Labs:
===========
___ 07:50PM BLOOD WBC-18.5* RBC-3.81* Hgb-7.8* Hct-27.0* 
MCV-71* MCH-20.5* MCHC-28.9* RDW-20.2* RDWSD-51.2* Plt ___
___ 07:50PM BLOOD Neuts-77.5* Lymphs-14.3* Monos-7.2 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-14.32* AbsLymp-2.63 
AbsMono-1.32* AbsEos-0.04 AbsBaso-0.05
___ 07:50PM BLOOD Glucose-90 UreaN-16 Creat-0.9 Na-143 
K-4.9 Cl-104 HCO3-25 AnGap-14
___ 07:47AM BLOOD CRP-66.5*
___ 08:17AM BLOOD ___ pO2-147* pCO2-42 pH-7.41 
calTCO2-28 Base XS-2 Comment-GREEN TOP

Interval Labs:
=========
___ 05:57AM BLOOD calTIBC-333 Ferritn-17 TRF-256
___ 07:47AM BLOOD CRP-66.5*
___ 08:17AM BLOOD ___ pO2-147* pCO2-42 pH-7.41 
calTCO2-28 Base XS-2 Comment-GREEN TOP
___ 08:17AM BLOOD Lactate-1.4

Microbiology:
==========
___ URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
___  BLOOD CULTURE x2: no growth
___  BLOOD CULTURE x2: NGTD
___  URINE CULTURE (Final ___:   YEAST.    
10,000-100,000 CFU/mL.

Discharge Labs:
===========
___ 07:10PM BLOOD WBC-19.0* RBC-3.26* Hgb-7.7* Hct-25.7* 
MCV-79* MCH-23.6* MCHC-30.0* RDW-25.6* RDWSD-56.4* Plt ___
___ 06:56AM BLOOD Glucose-96 UreaN-14 Creat-0.8 Na-141 
K-4.7 Cl-105 HCO3-26 AnGap-10
___ 05:55AM BLOOD Calcium-8.5 Phos-4.4 Mg-1.9

Imaging: 
=======
___ CTA AORTA/BIFEM/ILIAC R
IMPRESSION: 
 
1.  Redemonstration of occlusion of the distal infrarenal 
abdominal aorta at
the site of the bilateral common iliac stents with 
reconstitution of flow in
the bilateral common iliac arteries from multiple collaterals.
 
2.  Three-vessel runoff is identified bilaterally to the level 
of the ankle,
with slower flow noted in the bilateral anterior tibial and 
peroneal arteries.
The dorsalis pedis arteries are not well visualized on either 
side, and there
is likely retrograde filling of the right dorsalis pedis from 
multiple plantar
arteries.
 
3.  Mild to moderate stenosis identified in the abdominal major 
branches,
iliac and femoral arteries, due to atherosclerotic calcified and 
noncalcified
plaque, detailed above.
 
4.  Possible nonobstructing 2-3 mm left upper renal pole stone 
versus vascular
calcification.

CXR ___
IMPRESSION: 
No previous images.  Scatter radiation related to the size of 
the patient
greatly obscures detail.  Cardiac silhouette is mildly enlarged 
without
definite vascular congestion,, pleural effusion, or acute focal 
pneumonia. 

Other labs: 
___ 07:00AM BLOOD VitB12-812
___ 05:57AM BLOOD calTIBC-333 Ferritn-17 TRF-256
___ 07:00AM BLOOD TSH-2.1
 
___ 7:00 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RPR w/check for Prozone (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

Discharge labs:

___ 07:10PM BLOOD WBC-19.0* RBC-3.26* Hgb-7.7* Hct-25.7* 
MCV-79* MCH-23.6* MCHC-30.0* RDW-25.6* RDWSD-56.4* Plt ___
___ 06:56AM BLOOD Glucose-96 UreaN-14 Creat-0.8 Na-141 
K-4.7 Cl-105 HCO3-26 AnGap-10
___ 05:55AM BLOOD Calcium-8.5 Phos-4.4 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ with a PMHx of severe PVD, 
obesity, CAD s/p PCI c/b Lcirc perforation, T2DM, HTN, CML s/p 
SCT c/b GVHD, and chronic pannus ulcerations who presented from 
Wound Clinic initially with concern for worsening arterial 
disease. She was found to have stable arterial disease but 
persistent ischemic pannus ulcers, and underwent Panniculectomy 
on ___ with plastic surgery. Course also complicated by UTI s/p 
7d abx, delirium on presumed dementia, and anemia. 

#CHRONIC PANNUS ULCERATIONS 
#NUTRITION
Patient with chronic MRSA-infected ulcerations of the 
intertriginous zone of her pannus requiring multiple 
hospitalizations. Plastics has been following as outpatient with 
for consideration of panniculectomy after medical clearance. 
Wound care nurse consulted. Wounds were redressed Qd. Plastic 
surgery team requested nutrition, dermatology, and cardiology 
evaluation for pre-operative assessment. Per nutrition, patient 
continued on multivitamin with minerals, and continued on 10 day 
course of ascorbic acid ___ daily (___) and 10 day course 
of vitamin A ___ units (___). Zinc level was sent, normal. 
Dermatology thought the most likely etiology of her ulcers was 
her arterial disease, less likely infectious or pyoderma 
gangrenosum. Cardiology evaluated patient to perform 
pre-operative risk stratification, was considering intervention 
given her history of CAD with Lcirc CTO, but decided against 
this given small affected territory and presence of collaterals. 
She was deemed to have at least 3 risk factors, corresponding to 
a predicted risk of ~9% for major cardiac complications, 
recommended continuing aspirin but from cardiac standpoint does 
not need DAPT. Uncomplicated Panniculectomy was completed on 
___. Wound vac and 2 JP drains were left in place on discharge 
with plan for followup in Plastic Surgery clinic on ___ for 
removal. 

# PERIPHERAL VASCULAR DISEASE 
# ARTERIAL ULCERS 
# GANGRENE of MULTIPLE TOES
Patient with history of severe PVD s/p bilateral iliac stenting 
with subsequent occlusion. She has had a long standing 
ulceration on the right first toe and more recently pain and 
discoloration on the left second and third toes. She was 
recently evaluated as outpatient by vascular surgeon Dr. 
___ consideration of revascularization vs. 
amputation, but surgical intervention has been limited by her 
recurrent pannus infections. Patient initially presented to ED 
given c/f no palpable pulses, but per vascular surgery 
evaluation, her exam is stable with no palpable pulses but with 
dopplerable femoral and ___ pulses. CTA with e/o 3 vessel runoff. 
Vascular surgery with no plan for inpatient surgical 
intervention, would consider bypass after panniculectomy. 
Patient continued on ASA, clopidogrel, and atorvastatin. 

#TOXIC METABOLIC ENCEPHALOPATHY
#UTI 
#Cognitive impairment
In the ED, the patient became acutely agitated and confused 
requiring antipsychotics and a 1:1 sitter. Potential etiologies 
included infectious, metabolic, delirium, and medications. As 
she had known chronic ulcers on her pannus with leukocytosis on 
admission (___ 18), initial c/f pannus infection, although 
Plastics team eval in ED with low concern for secondary 
cellulitis. Initial ED labs without clear metabolic derangement. 
CXR ___ negative. UA showing large leuks, neg nitrites, started 
CTX/vanc for UTI,  transitioned to Bactrim to complete a 7d 
course (through ___. Bcx, Ucx NGTD. Patient did not have any 
agitation after transfer to the floor, although had ongoing 
memory issues through admission (AxOx2, aware that it is ___ 
but cannot provide correct date), some inattention. Per 
discussion with daughters this may be baseline, as they have had 
concerns over past year about their mother's memory. They 
questioned her ability to care for herself at her assisted 
living facility. ___ evaluated her and recommended rehab.

#URINARY RETENTION
Patient was found to have urinary retention on bladder scans. It 
was thought this could be related to her UTI but it did not 
resolve. She was not symptomatic. IT was felt she likely has 
baseline urinary retention, with overflow incontinence. 
Outpatient urinary retention was arranged.  

#MICROCYTIC ANEMIA
#IRON DEFICIENCY
Baseline Hgb ___. Hgb 7.8 on presentation and stable. Reported 
history of PUD on PPI. Home omeprazole continued as inpatient. 
Daily hemoglobin/hematocrit trended and stable during admission. 
Active T&S maintained for patient. Did receive 1 pRBC 
transfusion as inpatient. Received IV Iron infusions for severe 
iron deficiency.

#Generalized Body Pain
Patient endorsing severe total body pain, appears to be located 
in the abdomen and around this pressure ulcers.  Have been up 
titrating her pain regimen carefully given history of sedation 
with large doses of oral Dilaudid. Gave Tylenol to 1g Q6H 
standing, increased Tramadol, added PO dilaudid for better pain 
control. 

#Arm tremors
Her family noted new tremors that appear to be in both arms and 
into and occasionally whole body tremors that started while she 
is in rehab.  These worsened while she was here and have been 
improving over the last few days prior to discharge. There was 
concern that they were related to increased pain.  Pain regimen 
has been up titrated to good effect.  At this point her tremor 
is most pronounced when she is making an effort, such as holding 
herself up on the side of the bed.  Likely related to 
deconditioning and improved dramatically from admission. 

CHRONIC ISSUES:
===============
#CAD 
With MI s/p PCI complicated by LCx perforation, s/p a failed CTO 
PCI in ___ and subsequent cath in ___ that showed ongoing 
CTO of LCx with distal collaterals. Continued home Isosorbide 
Mononitrate (Extended Release) 30 mg PO DAILY, Aspirin 81 mg 
PO/NG DAILY, metoprolol, and atorvastatin. Evaluated by 
cardiology (see above) for pre-operative assessment and cleared 
for surgery without needing preoperative catheterization. She 
did not have a history of stent and after consultation with 
cardiology the Plavix was discontinued. 

#SACRAL DECUBITUS ULCER
Eschar covered sacral wound noted on R buttock. Patient provided 
with Qd wound dressings. On ___ after her panniculectomy her 
ulcer was debrided in the OR with eschar removal and found to be 
Stage II. Wound care followed along and provided recommendations 
for care as inpatient. 

#HYPERTENSION 
Continued on home amLODIPine 5 mg PO/NG DAILY and Losartan 
Potassium 50 mg PO/NG DAILY.

#DMII 
Maintained on insulin sliding scale as inpatient. Initially 
provided with insulin glargine 45 U QHS but blood sugars were 
low, downtitrated to 12 units. Metformin held and restarted on 
discharge. 

#OSA 
Noted to desat at night during recent hospitalizations. No e/o 
of desaturations during inpatient stay. Patient did not require 
supplemental oxygen/CPAP. 

#ANXIETY 
#DEPRESSION 
Continued home Escitalopram Oxalate 10 mg PO/NG DAILY.

Transitional Issues:
==============
[] Consider urology f/u as outpatient given ongoing urinary 
retention
[] Ensure ongoing Vascular surgery follow up and management of 
PVD and necrotic toes
[] Please follow wound care recommendations for Foot ulcer 
management 
[] Patient with Stage II sacral pressure ulcer, please continue 
wound care and outpatient management 
[] Follow up with Plastic surgery on ___ for assessment of 
pannus wound and potential removal of vac and drains. 
[] Wound vac should be return to ___ at ___ appointment. 
If at that appointment it is felt that her wound vac should be 
continued, then please substitute for rehab-provided wound vac. 
[] Neuro-cognitive appointment made on discharge for testing 
given c/f dementia 
[] Insulin was significantly downtitrated on admission from 45 U 
lantus to 12U lantus at discharge due to presumed poor oral 
intake. PLease monitor blood sugars and increase insulin as 
appropriate. 
[] Her Clopidogrel was stopped as she did not have any coronary 
stents and vascular surgery felt this was not needed for her 
iliac stents or her vascular disease. 
[] She had persistent anemia during this admission, was 
transfused one unit of pRBCs on ___ with good blood count 
response. She also had persistent leukocytosis (with normal 
differential), but given her history of CML s/p SCT we felt it 
was important for her to follow up with her oncologist at ___ 
___. Please arrange this for ___ weeks after discharge. 
[] f/u CBC in 1 week to ensure not Hgb downtrending (discharge 
hgb 7.7). Please also follow up her WBC count, which was 
elevated to 19 at discharge. If WBC continues to rise, please 
complete infectious evaluation and also ensure referral to her 
Oncologist at ___ who has been following her for CML. 
[] Continue Bactrim DS BID x7d for possible infection from 
pannus surgery. (___)

*Patient was discharged to rehab with anticipated length of stay 
of less than 30 days. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. melatonin 3 mg oral QHS 
4. Omeprazole 20 mg PO DAILY 
5. amLODIPine 5 mg PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
8. MetFORMIN (Glucophage) 1500 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Pregabalin 50 mg PO TID 
12. Zolpidem Tartrate 10 mg PO QHS 
13. rOPINIRole 1 mg PO BID 
14. TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
15. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
16. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
17. FoLIC Acid 1 mg PO DAILY 
18. Vitamin D 1000 UNIT PO DAILY 
19. Glargine 45 Units Bedtime
Insulin SC Sliding Scale using aspart Insulin
20. Clopidogrel 75 mg PO DAILY 
21. Metoprolol Succinate XL 50 mg PO DAILY 
22. HYDROmorphone (Dilaudid) 2 mg PO BID:PRN Pain - Severe 
23. Atorvastatin 80 mg PO QPM CAD 

 
Discharge Medications:
1.  Bisacodyl ___AILY:PRN constipation  
2.  Collagenase Ointment 1 Appl TP DAILY Sacral Pressure Ulcer  
3.  Docusate Sodium 100 mg PO BID  
4.  Multivitamins W/minerals 1 TAB PO DAILY  
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  Ramelteon 8 mg PO QHS:PRN insomnia 
Should be given 30 minutes before bedtime  
7.  Senna 8.6 mg PO BID  
8.  Sulfameth/Trimethoprim DS 2 TAB PO BID soft tissue 
infection, persistent leukocytosis Duration: 7 Days 
___  
9.  Glargine 12 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
10.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth q6h PRN Disp #*15 
Tablet Refills:*0 
11.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
12.  amLODIPine 5 mg PO DAILY  
13.  Aspirin 81 mg PO DAILY  
14.  Atorvastatin 80 mg PO QPM CAD  
15.  Cyanocobalamin 1000 mcg PO DAILY  
16.  Escitalopram Oxalate 10 mg PO DAILY  
17.  Ferrous Sulfate 325 mg PO DAILY  
18.  FoLIC Acid 1 mg PO DAILY  
19.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
20.  Losartan Potassium 50 mg PO DAILY  
21.  MetFORMIN (Glucophage) 1500 mg PO DAILY  
22.  Metoprolol Succinate XL 50 mg PO DAILY  
23.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
24.  Omeprazole 20 mg PO DAILY  
25.  Pregabalin 50 mg PO TID 
RX *pregabalin [Lyrica] 50 mg 1 capsule(s) by mouth three times 
a day Disp #*15 Capsule Refills:*0 
26.  rOPINIRole 1 mg PO BID  
27.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
TOXIC METABOLIC ENCEPHALOPATHY
UTI 
ACUTE URINARY RETENTION
CHRONIC PANNUS ULCERATIONS 
PERIPHERAL VASCULAR DISEASE 
ARTERIAL ULCERS 
GANGRENE of MULTIPLE TOES
MICROCYTIC ANEMIA ___ IRON DEFICIENCY
Generalized Body Pain

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at ___ 
___. 

Why you were here: 
You came to the hospital because people taking care of you at 
Wound Clinic on ___ were worried about you. You can in 
for a Vascular surgery evaluation, a UTI, and for surgery to 
remove your infected ulcers. 

What we did while you were here: 
- The Vascular surgeons checked on your leg wounds and did not 
feel a surgery was necessary. They wanted you to have surgery 
for your abdominal ulcers first. 
- The Plastic Surgeons (Dr. ___ reviewed you abdominal 
ulcers and performed a surgery called a Panniculectomy to remove 
the ulcerated skin. This procedure went well. 
- We treated you for a urinary tract infection. 
- We gave you a blood transfusion for anemia. 
- You had some confusion while you were here. Some days this was 
better than others, but overall it remained stable. We recommend 
that you see a neurologist after you are discharged from the 
hospital. 

What to do when you go home: 
It is important that you continue to take the medicines 
prescribed to you in the hospital. Please also attend all of 
your outpatient appointments and see your primary care doctor 
within 5 days after discharge. 

It was a pleasure taking care of you. We wish you all the best 
in your continued recovery!
-Your ___ Care Team 

 
Followup Instructions:
___